US06441005B1
5-(S)-Thioacetamidomethyl-3-[4′-(2″-fluoroethyl)sulfinyl-3′-fluorophenyl]-oxazolidine-2-one
Prepared analogously to the Method A of General Methods of Preparation of 5-(S)-Thioamidomethyloxazolidinones (Example 1) from 5-(S)-aminomethyl-3-[4′-(2″-fluoroethyl)sulfinyl-3′-fluorophenyl]oxazolidine-2-one (0.100 g, 0.329 mmol) and ethyl dithioacetate. Reaction was performed in DMF overnight. Yield 0.114 g (96%). M.p. 161° C. MS (m/z): [M+H]+=363.

reactant | 5-(S)-aminomethyl-3-[4′-(2″-fluoroethyl)sulfinyl-3′-fluorophenyl]oxazolidine-2-one | 0.329 mmol, 0.100 g | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)S(=O)CCF)F | C12H14F2N2O3S
reactant | ethyl dithioacetate | C(C)(=S)SCC | C4H8S2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(S)-Thioacetamidomethyl-3-[4′-(2″-fluoroethyl)sulfinyl-3′-fluorophenyl]-oxazolidine-2-one | C(C)(=S)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)S(=O)CCF)F | C14H16F2N2O3S2
